US04617307
5-p-Cyanophenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine
A solution of 2.13 g of 5-p-aminophenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine in 4 ml of concentrated hydrochloric acid and 10 ml of water is cooled in an ice-bath and a solution of 0.78 g of sodium nitrite in 2 ml of water is added slowly. The solution is added via dropping funnel to an ice cooled solution of 3.0 g of copper (I) cyanide in 10 ml of water, keeping the temperature between 30°-40°. The reaction is heated on a steam bath for 1 hour, cooled and brought to pH 9. The organic extracts are dried over sodium sulfate and evaporated and the residue is chromatographed on silica gel with ethyl acetate to yield the title compound.

reactant | 5-p-aminophenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | 2.13 g | NC1=CC=C(C=C1)C1CCCC=2N1C=NC2 | C13H15N3
reactant | sodium nitrite | 0.78 g | N(=O)[O-].[Na+]
reactant | copper (I) cyanide | 3.0 g | [Cu]C#N
solvent | hydrochloric acid | 4 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | water | 2 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 5-p-Cyanophenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | C(#N)C1=CC=C(C=C1)C1CCCC=2N1C=NC2 | C14H13N3
